US08222246B2
6-[3-(3,4-Difluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-N-([S]-1-hydroxymethyl-propyl)-nicotinamide
Hydroxybenzotriazole hydrate (43.1 mg, 0.28 mmol), N-ethyldiisopropylamine (241 μL, 1.38 mmol) and N-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride (54.0 mg, 0.28 mmol) were added at 0° C. to a solution 6-[3-(3,4-difluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid (100 mg, 0.29 mmol) and [S]-(+)-2-amino-1-butanol (32.3 μL, 0.33 mmol) in THF (8 mL). The reaction mixture was stirred at room temperature overnight. Addition of aqueous hydrochloric acid (1 N, 10 mL), extraction with ethyl acetate and chromatography (silica, ethyl acetate:heptane=0:1 to 1:0) afforded the title compound (73 mg, 61%) as a brown solid. MS: m/e=434.4 [M+H]+.

reactant | Hydroxybenzotriazole hydrate | 0.28 mmol, 43.1 mg | O.OC1=CC=CC=2NN=NC21
reactant | N-ethyldiisopropylamine | 1.38 mmol, 241 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | N-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride | 0.28 mmol, 54.0 mg | CCN=C=NCCCN(C)C.Cl
reactant | 6-[3-(3,4-difluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid | 0.29 mmol, 100 mg | FC=1C=C(C=CC1F)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)CO | C17H12F2N2O5
reactant | [S]-(+)-2-amino-1-butanol | 0.33 mmol, 32.3 μL | N[C@H](CO)CC | C4H11NO
reactant | hydrochloric acid | 1 N, 10 mL | Cl | ClH
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | heptane | CCCCCCC | C7H16
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[3-(3,4-Difluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-N-([S]-1-hydroxymethyl-propyl)-nicotinamide | 73 mg, 61% | FC=1C=C(C=CC1F)C1=NOC(=C1COC1=NC=C(C(=O)N[C@@H](CC)CO)C=C1)CO | C21H21F2N3O5
